US06881844B2
A solution of 6-bromo-1H-indole (2.0 g, 10.20 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (2.16 mL, 15.30 mmol). The reaction was stirred at 0° C. for 1 h and then was allowed to warm to 25° C. where it was stirred for 2 h. At this time, the resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-bromo-1H-indol-3-yl)-ethanone (1.79 g, 60%) as a white solid: mp 258-260° C.; EI-HRMS m/e calcd for C10H5BrF3NO (M+) 290.9511, found 290.9511.

reactant | 6-bromo-1H-indole | 10.20 mmol, 2.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | trifluoroacetic anhydride | 15.30 mmol, 2.16 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-bromo-1H-indol-3-yl)-ethanone | 1.79 g, 60% | FC(C(=O)C1=CNC2=CC(=CC=C12)Br)(F)F | C10H5BrF3NO
